US08247415B2
Step A: Tert-butyl(2R,5R)-2-(4-{[(2-amino-1,3-thiazol-4-yl)acetyl]amino}-3-bromobenzyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate
To a solution of 81 mg (0.18 mmol) of tert-butyl (2R,5R)-2-(4-amino-3-bromobenzyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate (i-80b) and (2-amino-1,3-thiazol-4-yl)acetic acid (45 mg, 0.18 mmol) in 2.0 mL anhydrous DMF was added HOBt (31 mg, 0.23 mmol) followed by EDC (45 mg) and DIEA (0.16 mL, 0.88 mmol). The resulting mixture was stirred at room temperature under nitrogen atmosphere for 16 h. The mixture was washed with water and extracted with dichloromethane (2×2 mL). The organics were combined, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was purified by Gilson reverse phase HPLC eluting with a gradient of 10-90% acetonitrile in water with 0.05% TFA bufferto afforded the product (75 mg, 81%). m/z (ES) 601(M)+ and 603 (M+2)+, also 623 (MNa)+ and 625 (MNa+2)+.

reactant | tert-butyl (2R,5R)-2-(4-amino-3-bromobenzyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate | 0.18 mmol, 81 mg | NC1=C(C=C(C[C@@H]2N([C@H](CC2)[C@@H](C2=CC=CC=C2)O)C(=O)OC(C)(C)C)C=C1)Br | C23H29BrN2O3
reactant | (2-amino-1,3-thiazol-4-yl)acetic acid | 0.18 mmol, 45 mg | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | HOBt | 0.23 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.88 mmol, 0.16 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | EDC | 45 mg
product | Tert-butyl(2R,5R)-2-(4-{[(2-amino-1,3-thiazol-4-yl)acetyl]amino}-3-bromobenzyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate | 75 mg, 81% | NC=1SC=C(N1)CC(=O)NC1=C(C=C(C[C@@H]2N([C@H](CC2)[C@@H](C2=CC=CC=C2)O)C(=O)OC(C)(C)C)C=C1)Br | C28H33BrN4O4S
